US09334263B2
A solution of tert-butyl 4-(5-bromopyrimidin-2-yl)piperazine-1-carboxylate (5 g, 14.6 mmol) in 4 M HCl-dioxane (50 mL) was stirred at room temperature for 1 hour. The reaction mixture was concentrated to give 5-bromo-2-(piperazin-1-yl)pyrimidine HCl salt (crude, 3.3 g, 94%) as a white solid. MS (ES+) C8H11BrN4 requires: 242, 244, found: 243, 245 [M+H]+.

reactant | tert-butyl 4-(5-bromopyrimidin-2-yl)piperazine-1-carboxylate | 14.6 mmol, 5 g | BrC=1C=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C13H19BrN4O2
reactant | HCl dioxane | 4 M, 50 mL | Cl.O1CCOCC1
product | 5-bromo-2-(piperazin-1-yl)pyrimidine HCl salt | 3.3 g, 94% | Cl.BrC=1C=NC(=NC1)N1CCNCC1 | InChI=1S/C8H11BrN4.ClH/c9-7-5-11-8(12-6-7)13-3-1-10-2-4-13;/h5-6,10H,1-4H2;1H
